### PR TITLE
[Merged by Bors] - feat: term elaborator for associativity equivalences between iterated products.

### PR DESCRIPTION
**Pull request by adamtopaz**
For example,
```lean
(prod_assoc% : (α × β) × (γ × δ) ≃ α × (β × γ) × δ)
```
gives the "obvious" equivalence between `(α × β) × (γ × δ)` and `α × (β × γ) × δ`.

Special thanks to @kmill for help getting the expected type to work in the elaborator!

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/ProdAssoc.lean [hunk 1]
```diff
@@ -0,0 +1,150 @@
...
+  | prod fst snd _ _ => fst.size + snd.size
+
+/-- The components of an interated product, presented as a `ProdTree`. -/
+def ProdTree.components : ProdTree → List Expr
+  | type tp _ => [tp]
+  | prod fst snd _ _ => fst.components ++ snd.components
+
+/-- Make a `ProdTree` out of an `Expr`. -/
+def mkProdTree (e : Expr) : MetaM ProdTree :=
+  match e with
```
Comment (kmill) [inline Mathlib/Tactic/ProdAssoc.lean:47]: It's a little overkill (`e.consumeMData` is probably all you need in practice), but if you want to avoid some metadata-related issues you probably should do
```suggestion
  match e.cleanupAnnotations with
```
You might even consider `whnfR` instead of `cleanupAnnotations` if you want this elaborator to unfold reducible definitions, but I'm assuming we don't want that, since it could be rather surprising.

File: Mathlib/Tactic/ProdAssoc.lean [hunk 2]
```diff
@@ -0,0 +1,150 @@
...
+    | .app (.app (.const ``Prod [u,v]) X) Y => do
+        return .prod (← X.mkProdTree) (← Y.mkProdTree) u v
+    | X => do
+      let some u := (← inferType X).type? | throwError "Not a type{indentExpr X}"
```
Comment (kmill) [inline Mathlib/Tactic/ProdAssoc.lean:51]: I think you should do `(← whnfD (← inferType X)).type?` here since the type might not literally be `Type _`, and it might need a bit of reduction.

File: Mathlib/Tactic/ProdAssoc.lean [hunk 3]
```diff
@@ -0,0 +1,150 @@
...
+/-- Given two expressions corresponding to iterated products of the same types, associated in
+possibly different ways, this constructs the "obvious" function from one to the other. -/
+def mkProdFun (a b : Expr) : MetaM Expr := do
+  let pa ← a.mkProdTree
+  let pb ← b.mkProdTree
+  unless pa.components.length == pb.components.length do
+    throwError "The number of components of {a} and {b} must match."
+  for (x,y) in pa.components.zip pb.components do
+    unless ← isDefEq x y do
+      throwError "Components {x} is not defeq to component {y}."
```
Comment (kmill) [inline Mathlib/Tactic/ProdAssoc.lean:102]: Small typo, and I'd suggest writing the message out like this:
```suggestion
      throwError "Component{indentD x}\nis not definitionally equal to component{indentD y}."
```

File: Mathlib/Tactic/ProdAssoc.lean [hunk 4]
```diff
@@ -0,0 +1,150 @@
...
+def ProdTree.convertTo (P1 P2 : ProdTree) (e : Expr) : MetaM Expr :=
+  return ← P2.pack <| ← P1.unpack e
+
+/-- Given two expressions corresponding to iterated products of the same types, associated in
+possibly different ways, this constructs the "obvious" function from one to the other. -/
+def mkProdFun (a b : Expr) : MetaM Expr := do
+  let pa ← a.mkProdTree
+  let pb ← b.mkProdTree
+  unless pa.components.length == pb.components.length do
+    throwError "The number of components of {a} and {b} must match."
```
Comment (kmill) [inline Mathlib/Tactic/ProdAssoc.lean:99]: To help readability if the terms are long.
```suggestion
    throwError "The number of components in{indentD a}\nand{indentD b}\nmust match."
```

File: Mathlib/Tactic/ProdAssoc.lean [hunk 5]
```diff
@@ -0,0 +1,150 @@
...
+  for (x,y) in pa.components.zip pb.components do
+    unless ← isDefEq x y do
+      throwError "Components {x} is not defeq to component {y}."
+  return .lam `t a (← pa.convertTo pb <| .bvar 0) .default
```
Comment (kmill) [inline Mathlib/Tactic/ProdAssoc.lean:103]: Is constructing this `.lam` necessary? It looks like `pa.convertTo pb` is all you need to return, unless the point of this is to cache the type of the domain for some reason?

File: Mathlib/Tactic/ProdAssoc.lean [hunk 6]
```diff
@@ -0,0 +1,150 @@
...
+
+/-- Construct the equivalence between iterated products of the same type, associated
+in possibly different ways. -/
+def mkProdEquiv (a b : Expr) : MetaM Expr := do
+  let some u := (← inferType a).type? | throwError "Not a type{indentExpr a}"
+  let some v := (← inferType b).type? | throwError "Not a type{indentExpr b}"
```
Comment (kmill) [inline Mathlib/Tactic/ProdAssoc.lean:109]: Same `whnfD` consideration for these `.type?` functions as in my other comment.

File: Mathlib/Tactic/ProdAssoc.lean [hunk 7]
```diff
@@ -0,0 +1,150 @@
...
+open Elab Term in
+/-- Elaborator for `prod_assoc%`. -/
+@[term_elab prodAssocStx]
+def elabProdAssoc : TermElab := fun stx expectedType? => do
+  match stx with
+  | `(prod_assoc_internal%) => do
+    let some expectedType ← tryPostponeIfHasMVars? expectedType?
+          | throwError "expected type must be known"
+    let .app (.app (.const ``Equiv _) a) b := expectedType
+          | throwError "Expected type {expectedType} is not of the form `α ≃ β`."
```
Comment (kmill) [inline Mathlib/Tactic/ProdAssoc.lean:127]: This error should never happen, but let's make it look nice anyway.
```suggestion
          | throwError "Expected type{indentD expectedType}\nis not of the form `α ≃ β`."
```

File: Mathlib/Tactic/ProdAssoc.lean (hunk 1 above)
Comment (adamtopaz) [reply Mathlib/Tactic/ProdAssoc.lean:47]: I did indeed purposefully avoid reduction. But I'll added `cleanupAnnotations` as suggested.

File: Mathlib/Tactic/ProdAssoc.lean (hunk 2 above)
Comment (adamtopaz) [reply Mathlib/Tactic/ProdAssoc.lean:51]: Done. Thanks!

File: Mathlib/Tactic/ProdAssoc.lean (hunk 4 above)
Comment (adamtopaz) [reply Mathlib/Tactic/ProdAssoc.lean:99]: Done. Thanks!

File: Mathlib/Tactic/ProdAssoc.lean (hunk 3 above)
Comment (adamtopaz) [reply Mathlib/Tactic/ProdAssoc.lean:102]: Done. Thanks!

File: Mathlib/Tactic/ProdAssoc.lean (hunk 5 above)
Comment (adamtopaz) [reply Mathlib/Tactic/ProdAssoc.lean:103]: I'm not sure what you mean. This is meant to construct the actual function, as an `Expr`, between the products. `pa.convertTo pb` will return a function `Expr -> Expr`, so constructing some `.lam` term will have to be done later, presumably as part of `mkProdEquiv`. I can imagine it being useful to have some way to construct the `Expr` of the function, which this accomplishes.

File: Mathlib/Tactic/ProdAssoc.lean (hunk 6 above)
Comment (adamtopaz) [reply Mathlib/Tactic/ProdAssoc.lean:109]: Thanks. Done!

File: Mathlib/Tactic/ProdAssoc.lean [hunk 8]
```diff
@@ -0,0 +1,150 @@
...
+in possibly different ways. -/
+def mkProdEquiv (a b : Expr) : MetaM Expr := do
+  let some u := (← inferType a).type? | throwError "Not a type{indentExpr a}"
+  let some v := (← inferType b).type? | throwError "Not a type{indentExpr b}"
+  return mkAppN (.const ``Equiv.mk [.succ u,.succ v])
+    #[a, b, ← mkProdFun a b, ← mkProdFun b a,
+      .app (.const ``rfl [.succ u]) a,
+      .app (.const ``rfl [.succ v]) b]
+
+/-- IMPLEMENTATION: Syntax used in the implementation of `prod_assoc%`. -/
```
[the remark this answers is not in the document]
Comment (adamtopaz) [reply Mathlib/Tactic/ProdAssoc.lean:115]: LGTM!

File: Mathlib/Tactic/ProdAssoc.lean (hunk 7 above)
Comment (adamtopaz) [reply Mathlib/Tactic/ProdAssoc.lean:127]: Thanks. Done!

File: Mathlib/Tactic/ProdAssoc.lean [hunk 9]
```diff
@@ -0,0 +1,150 @@
...
+example : (α × β) × (γ × δ) ≃ α × (β × γ) × δ := by
+  have := (prod_assoc% : (α × β) × (γ × δ) ≃ α × (β × γ) × δ)
+  exact this
+
+example : (α × β) × (γ × δ) ≃ α × (β × γ) × δ := prod_assoc%
+
+example : (α × β) × (γ × δ) ≃ α × (β × γ) × δ :=
+  (prod_assoc% : _ ≃ α × β × γ × δ).trans prod_assoc%
+
+example {α β γ δ : Type*} (x : (α × β) × (γ × δ)) : α × (β × γ) × δ := prod_assoc% x
```
[the remark this answers is not in the document]
Comment (adamtopaz) [reply Mathlib/Tactic/ProdAssoc.lean:148]: Will do!

File: Mathlib/Tactic/ProdAssoc.lean (hunk 5 above)
Comment (kmill) [reply Mathlib/Tactic/ProdAssoc.lean:103]: Oh, oops, I got lost in the levels of representation here. I mistook the application for a `.app`.

Passing `.bvar 0` like this isn't exactly safe, unless you are very careful that you never use `.lam` ever again inside the term. You don't, so it's ok I think, but the way you're supposed to do this is
```
withLocalDeclD `t a .default fun fvar =>
  mkLambdaFVars #[fvar] (← pa.convertTo pb fvar)
```
(untested, I might have gotten function names and argument orders wrong). If you don't switch to using `mkLambdaFVars`, please document the invariants why `.bvar 0` is OK.

Comment (adamtopaz) [reply Mathlib/Tactic/ProdAssoc.lean:103]: Ah I see. Okay I'll make this change soon. I actually had to fight this `bvar` while I was writing this code, so I know for a fact that this is brittle. Thanks!

File: Mathlib/Tactic/ProdAssoc.lean [hunk 10]
```diff
@@ -0,0 +1,150 @@
...
+    let some expectedType ← tryPostponeIfHasMVars? expectedType?
+          | throwError "expected type must be known"
+    let .app (.app (.const ``Equiv _) a) b := expectedType
+          | throwError "Expected type {expectedType} is not of the form `α ≃ β`."
+    mkProdEquiv a b
+  | _ => throwUnsupportedSyntax
+
+/--
+`prod_assoc%` will construct the "obvious" equivalence between iterated products of types,
+regardless of how the products are parenthesized.
```
[the remark this answers is not in the document]
Comment (adamtopaz) [reply Mathlib/Tactic/ProdAssoc.lean]: Thanks. Done!

File: Mathlib/Tactic/ProdAssoc.lean (hunk 9 above)
[the remark this answers is not in the document]
Comment (adamtopaz) [reply Mathlib/Tactic/ProdAssoc.lean]: Done, and added a few more examples, including this one which I think is quite cool:
```lean
example (x : α) (y : β) (z : γ) (w : δ) :
    prod_assoc% ((x,y),(z,w)) = (x,(y,z),w) :=
  rfl
```

[the remark this answers is not in the document]
Comment (kmill) [reply Mathlib/Tactic/ProdAssoc.lean]: Wow, I hadn't anticipated that that would work!

File: Mathlib/Tactic/ProdAssoc.lean (hunk 5 above)
Comment (adamtopaz) [reply Mathlib/Tactic/ProdAssoc.lean]: Ok. I've fixed this now, essentially using your suggestion with `withLocalDeclD`.

File: Mathlib/Tactic/ProdAssoc.lean [hunk 11]
```diff
@@ -0,0 +1,151 @@
...
+def ProdTree.unpack (t : Expr) : ProdTree → MetaM (List Expr)
+  | type _ _ => return [t]
+  | prod fst snd u v => do
+      let fst' ← fst.unpack <| mkAppN (.const ``Prod.fst [u,v]) #[fst.getType, snd.getType, t]
+      let snd' ← snd.unpack <| mkAppN (.const ``Prod.snd [u,v]) #[fst.getType, snd.getType, t]
+      return fst' ++ snd'
+
+/-- This function should act as the "reverse" of `ProdTree.unpack`, constructing
+a term of the iterated product out of a list of terms of the types appearing in the product. -/
+def ProdTree.pack (ts : List Expr) : ProdTree → MetaM Expr
```
Comment (kmill) [inline Mathlib/Tactic/ProdAssoc.lean:72]: I believe you could make this take an `Subarray Expr`, which would save you needing to do these to-and-from-array conversions.

**Review by kmill — APPROVED** [review]
Something that occurred to me is that we could have probably used the coherence theorem for monoidal categories and the `coherence` tactic to do all this "for free" (you're using `List` to strictify the products after all :smile:) but I believe you're generating much much better code, if this elaborator gets used in programming.

I don't see any obvious bugs, so let's just merge

bors r+

There's one suggested efficiency improvement, but the arrays involved are so small we'd probably not detect the difference, though it would make the code look cleaner. I figure it can be a follow-up.

**Comment by adamtopaz** [comment]
@kmill the coherence stuff would have worked great if all the types had the same universe level. This approach doesn't have such a restriction 😁

File: Mathlib/Tactic/ProdAssoc.lean (hunk 11 above)
Comment (adamtopaz) [reply Mathlib/Tactic/ProdAssoc.lean:72]: Good idea! I'll implement this in a follow up PR.
